US07517873B2
A mixture of 0.108 g (0.0004 mole) of 2-chloro-9-(2-methoxy-ethyl)-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-40), 0.08 g (0.00048 mole) of 4-amino-3-methoxy-benzoic acid, 0.5 mL of ethanol, 2 mL of water, and 2 drops of hydrochloric acid was heated at 100 degrees overnight. Upon cooling, a precipitate formed which was collected by filtration to give 0.11 g of 3-methoxy-4-[9-(2-methoxy-ethyl)-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-benzoic acid (I-40a) as an off-white solid.

reactant | 2-chloro-9-(2-methoxy-ethyl)-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0004 mole, 0.108 g | ClC=1N=CC2=C(N(CCC(N2C)=O)CCOC)N1 | C11H15ClN4O2
reactant | 4-amino-3-methoxy-benzoic acid | 0.00048 mole, 0.08 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 3-methoxy-4-[9-(2-methoxy-ethyl)-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino]-benzoic acid | 0.11 g | COC=1C=C(C(=O)O)C=CC1NC=1N=CC2=C(N(CCC(N2C)=O)CCOC)N1 | C19H23N5O5
